US08377874B2
Step 1: Ethyl (25)-2-aminonon-8-enoate hydrochloride
A stirred solution of (2S)-2-[(t-butoxycarbonyl)amino]non-8-enoic acid (ACME Bioscience Inc) (1.00 g, 3.69 mmol) in EtOH (10 ml) was saturated with HCl gas. The mixture was stirred at RT for 2 hours, then concentrated to give the title product (0.85 g). LRMS (ESI) m/z 200.4 [(M+H)+; calcd for C11H22NO2: 200.2].

reactant | (2S)-2-[(t-butoxycarbonyl)amino]non-8-enoic acid | 3.69 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC=C | C14H25NO4
reactant | HCl | Cl | ClH
reactant | EtOH | 10 ml | CCO | C2H6O
product | Ethyl (25)-2-aminonon-8-enoate hydrochloride | 0.85 g | Cl.N[C@H](C(=O)OCC)CCCCCC=C | InChI=1S/C11H21NO2.ClH/c1-3-5-6-7-8-9-10(12)11(13)14-4-2;/h3,10H,1,4-9,12H2,2H3;1H/t10-;/m0./s1
